US09162992B2
N-(2-(Propen-2-yl)amino-7-methyl-pyrrolo[2,3 d]pyrimidin-4-yl)-N,O-dimethyl-hydroxylamine (310 mg, 1.32 mmol) was dissolved in H2O (5 mL) and 0.5 M aqueous HCl solution (2.7 mL), and the solution was lyophilized to yield N-(2-(propen-2-yl)amino-7-methyl-pyrrolo[2,3 d]pyrimidin-4-yl)-N,O-dimethyl-hydroxylamine hydrochloride (CLIX, 325 mg) as a white solid. LCMS (ESI) m/z=248 (M+H)+. 1H NMR (500 MHz, DMSO) δ (ppm) 12.60-14.80 (br, 1H), 7.70-8.70 (br, 1H), 7.06 (s, 1H), 6.55 (s, 1H), 5.90-5.94 (m, 1H), 5.31 (d, J=17.0 Hz, 1H), 5.17 (d, J=10.5 Hz, 1H), 4.06 (s, 2H), 3.84 (s, 3H), 3.70 (s, 3H), 3.53 (s, 3H).

reactant | N-(2-(Propen-2-yl)amino-7-methyl-pyrrolo[2,3 d]pyrimidin-4-yl)-N,O-dimethyl-hydroxylamine | 1.32 mmol, 310 mg | C=C(C)NC=1N=C(C2=C(N1)N(C=C2)C)N(OC)C | C12H17N5O
reactant | HCl | 0.5 M, 2.7 mL | Cl | ClH
solvent | H2O | 5 mL | O | H2O
product | N-(2-(propen-2-yl)amino-7-methyl-pyrrolo[2,3 d]pyrimidin-4-yl)-N,O-dimethyl-hydroxylamine hydrochloride | 325 mg | Cl.C=C(C)NC=1N=C(C2=C(N1)N(C=C2)C)N(OC)C | InChI=1S/C12H17N5O.ClH/c1-8(2)13-12-14-10-9(6-7-16(10)3)11(15-12)17(4)18-5;/h6-7H,1H2,2-5H3,(H,13,14,15);1H
